US06756380B1
To a solution of 0.62 g (1.07 mmol) methanesulfonic acid 4-[(3,5-bis-trifluoromethyl-benzyl)-methyl-carbamoyl]-5-(2-chloro-phenyl)-pyrimidin-2-ylmethyl ester in 10 ml CH2Cl2 1.53 ml (8.52 mmol) of a 5.6 M solution of dimethylamine were added. The reaction mixture was stirred for 16 hrs. at RT and than poured into H2O and extracted three times with 50 ml CH2Cl2. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH/NH4OH 200:10:1) to give 0.40 g (70%) 5-(2-chloro-phenyl)-2-dimethylaminomethyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide as a colorless oil, MS (ISP): 531.1 (M+H+).

reactant | methanesulfonic acid 4-[(3,5-bis-trifluoromethyl-benzyl)-methyl-carbamoyl]-5-(2-chloro-phenyl)-pyrimidin-2-ylmethyl ester | 1.07 mmol, 0.62 g | FC(C=1C=C(CN(C(=O)C2=NC(=NC=C2C2=C(C=CC=C2)Cl)COS(=O)(=O)C)C)C=C(C1)C(F)(F)F)(F)F | C23H18ClF6N3O4S
reactant | CH2Cl2 | 8.52 mmol, 10 ml | C(Cl)Cl | CH2Cl2
reactant | dimethylamine | CNC | C2H7N
solvent | H2O | O | H2O
product | 5-(2-chloro-phenyl)-2-dimethylaminomethyl-pyrimidine-4-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 0.40 g, 70% | FC(C=1C=C(CN(C(=O)C2=NC(=NC=C2C2=C(C=CC=C2)Cl)CN(C)C)C)C=C(C1)C(F)(F)F)(F)F | C24H21ClF6N4O
